US03935218
The above prepared tetrahydropyrimidoisoindolol is dissolved in ethanol and admixed with an aqueous solution containing an equivalent amount of hydrochloric acid. The mixture is stirred for ten minutes and the solvent removed by evaporation. In this manner, is obtained 6-(4-chlorophenyl)-2,3,4,6-tetrahydropyrimido[2,1-a]isoindol-6-ol hydrochloride, m.p. 232°-4°C., as a white crystalline solid, which is soluble in hot water.

reactant | tetrahydropyrimidoisoindolol | C1(NCNC=2C=CC3=CNC=C3C21)O | C10H11N3O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 6-(4-chlorophenyl)-2,3,4,6-tetrahydropyrimido[2,1-a]isoindol-6-ol hydrochloride | Cl.ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NCCC2)O | InChI=1S/C17H15ClN2O.ClH/c18-13-8-6-12(7-9-13)17(21)15-5-2-1-4-14(15)16-19-10-3-11-20(16)17;/h1-2,4-9,21H,3,10-11H2;1H
